US05142056
A. N-(2-Cyanoethyl)leucine Methyl Ester
A solution of leucine methyl ester (0.590 mmol) in acrylonitrile (2 ml) was heated at reflux. Evaporation provided a residue which was chromatographed on silica gel to give desired compound.

reactant | leucine methyl ester | 0.590 mmol | COC([C@@H](N)CC(C)C)=O | C7H15NO2
solvent | acrylonitrile | 2 ml | C(C=C)#N | C3H3N
product | N-(2-Cyanoethyl)leucine Methyl Ester | COC([C@@H](NCCC#N)CC(C)C)=O | C10H18N2O2
